US06458780B1
Acetic acid (0.345 ml) and 2.04 ml of a 1 M tetra-n-butylammonium fluoride/THF solution were added to a solution of 255 mg of 4-nitrobenzyl(5R,6S)-2-(7-t-butyldimethylsilyloxyacetylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate in 8 ml of THF. The mixture was stirred at room temperature for 3 hr. Brine was added to the reaction solution. The mixture was adjusted to pH 8.1 by the addition of a saturated sodium hydrogencarbonate solution, and extracted twice with ethyl acetate. The organic layers were combined, washed twice with brine, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure. Diethylether(5 ml) was added to the residue. The insoluble was collected by filtration to give 196 mg of 4-nitrobenzyl(5R,6S)-2-(7-hydroxyacetylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate.

reactant | Acetic acid | 0.345 ml | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride THF | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | 4-nitrobenzyl(5R,6S)-2-(7-t-butyldimethylsilyloxyacetylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate | 255 mg | [Si](C)(C)(C(C)(C)C)OCC(=O)C=1N=CN2C1SC(=C2)C=2C[C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O | C29H34N4O8SSi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
product | 4-nitrobenzyl(5R,6S)-2-(7-hydroxyacetylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate | 196 mg | OCC(=O)C=1N=CN2C1SC(=C2)C=2C[C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O | C23H20N4O8S
